US08530461B2
(S)—N-(1-{4-[3-(4-Ethoxy-2-fluoro-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
Under an argon atmosphere a mixture of 0.078 g (0.32 mmol) (S)—N-[1-(4-bromo-phenyl)-ethyl]-acetamide (I.1), 0.080 g (0.32 mmol) 3-(4-ethoxy-2-fluoro-phenoxy)-azetidine (see US20090286812), 0.26 g (0.081 mmol) Cs2CO3, 0.0036 g (0.016 mmol) palladium(II) acetate, 0.0077 g (0.016 mmol) 2-dicyclohexylphosphine-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (X-Phos) in 1.5 mL toluene and 0.5 mL tert-butanol is stirred for 12 h at 120° C. Few water and methanol is added, the mixture is filtered and concentrated in vacuo. The residue is purified by HPLC (GeminiCl8, acetone/water (+0.3% NH4OH)) to yield the desired product.

reactant | (S)—N-[1-(4-bromo-phenyl)-ethyl]-acetamide | 0.32 mmol, 0.078 g | BrC1=CC=C(C=C1)[C@H](C)NC(C)=O | C10H12BrNO
reactant | 3-(4-ethoxy-2-fluoro-phenoxy)-azetidine | 0.32 mmol, 0.080 g | C(C)OC1=CC(=C(OC2CNC2)C=C1)F | C11H14FNO2
reactant | Cs2CO3 | 0.081 mmol, 0.26 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | tert-butanol | 0.5 mL | C(C)(C)(C)O | C4H10O
catalyst | palladium(II) acetate | 0.016 mmol, 0.0036 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol | CO | CH4O
product | (S)—N-(1-{4-[3-(4-Ethoxy-2-fluoro-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | C(C)OC1=CC(=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=C1)F | C21H25FN2O3
